US04935441
As in example 18, but using 5.4 g 3-(2-fluorophenyl)-3-phenylmercapto-propionic acid, 40 ml dimethylformamide and 15 ml phosphorous oxychloride. After hydrolysis a precipitate forms which is filtered, washed with water and dried over phosphorous pentoxide. The residual solid is recrystallized in hexane and pure yellow crystalline 4-chloro-2'-fluoro-3-formyl-thioflav-3-ene is obtained; m.p. 119°-120° C.

reactant | 3-(2-fluorophenyl)-3-phenylmercapto-propionic acid | 5.4 g | FC1=C(C=CC=C1)C(CC(=O)O)SC1=CC=CC=C1 | C15H13FO2S
reactant | phosphorous oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-chloro-2'-fluoro-3-formyl-thioflav-3-ene | ClC1=C(C(SC2=CC=CC=C12)C1=C(C=CC=C1)F)C=O | C16H10ClFOS
